US09216980B2
Step 2: 4,4-Dimethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine
A degassed mixture of 1-(4-bromobenzyl)-4,4-dimethylpiperidine (320 mg, 1.1 mmol), bis(pinacolato)diborane (346 mg, 1.4 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (46.4 mg, 0.06 mmol) and potassium acetate (334 mg, 3.4 mmol) in dioxane (5.8 mL) and DMSO (0.6 mL) was heated under microwave irradiation at 150° C. for 30 minutes. The cooled reaction mixture was diluted with ethyl acetate (50 mL) then filtered and the filtrate was washed with water (75 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford the title compound as a brown oil (264 mg, 71%) that was used in the next step without further purification. 1H NMR (CDCl3, 300 MHz): 7.77 (d, J=7.8 Hz, 2H), 7.34 (d, J=7.7 Hz, 2H), 3.63 (s, 2H), 2.47 (t, J=5.3 Hz, 4H), 1.43 (t, J=5.6 Hz, 4H), 1.38-1.31 (m, 12H), 0.91 (s, 6H).

reactant | 1-(4-bromobenzyl)-4,4-dimethylpiperidine | 1.1 mmol, 320 mg | BrC1=CC=C(CN2CCC(CC2)(C)C)C=C1 | C14H20BrN
reactant | bis(pinacolato)diborane | 1.4 mmol, 346 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.4 mmol, 334 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 5.8 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 0.6 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4,4-Dimethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine | 264 mg, 71% | CC1(CCN(CC1)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C20H32BNO2
